US04503055
To a stirred mixture of 15.5 parts of 4-(1-piperazinyl)phenol dihydrobromide, 40 parts of ethanol and 75 parts of water are added 15.2 parts of 4-methylbenzenesulfonyl chloride and stirring is continued for 30 minutes at room temperature. Then there are added portionwise 12.6 parts of sodium hydrogen carbonate at 0° C. Upon completion, stirring is continued overnight at room temperature. The precipitated product is filtered off and taken up in alkaline water. The mixture is filtered over hyflo and the filtrate is acidified with acetic acid. The precipitated product is filtered off and taken up in water. The free base is liberated in the conventional manner with a sodium hydroxide solution. The whole is filtered over hyflo and the filtrate is acidified with acetic acid. The precipitated product is filtered off and dried, yielding 4.8 parts of 1-(4-hydroxyphenyl)-4-(4-methylphenylsulfonyl)piperazine; mp. 193.1° C.

reactant | 4-(1-piperazinyl)phenol dihydrobromide | Br.Br.N1(CCNCC1)C1=CC=C(C=C1)O
reactant | ethanol | C(C)O | C2H6O
reactant | 4-methylbenzenesulfonyl chloride | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | 1-(4-hydroxyphenyl)-4-(4-methylphenylsulfonyl)piperazine | OC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C | C17H20N2O3S
